US09302991B2
<Step-2>: N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-(cyclopropanecarboxamido)oxazole-5-carboxamide (Example-112, single enantiomer)
The title compound is prepared from 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)oxazole-5-carboxamide (30 mg, 0.08 mmol, Step-1, single enantiomer) and cyclopropanecarbonyl chloride (13 mg, 0.12 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)oxazole-5-carboxamide | 0.08 mmol, 30 mg | NC=1OC(=CN1)C(=O)NC(C)C=1C=NC(=C(C1)Cl)OCC(F)(F)F | C13H12ClF3N4O3
reactant | cyclopropanecarbonyl chloride | 0.12 mmol, 13 mg | C1(CC1)C(=O)Cl | C4H5ClO
product | N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-(cyclopropanecarboxamido)oxazole-5-carboxamide | ClC=1C=C(C=NC1OCC(F)(F)F)C(C)NC(=O)C1=CN=C(O1)NC(=O)C1CC1 | C17H16ClF3N4O4
